US06951883B2
Preparation of 7-pivaloyloxyisoflavone
To a solution of 7 g of 7-hydroxyisoflavone in 190 ml of N,N-dimethylformamide, 2 g of sodium hydride (80% in paraffin oil) were added. The mixture was stirred for 10 minutes, then 4.2 g of pivaloyl chloride were dropped in 1 minute, under vigorous stirring. After 20 minutes at r.t. the mixture was poured into water (400 ml), the precipitate was filtered, washed with water (1000 ml) and dissolved in chloroform (800 ml). The organic solution was dried over sodium sulphate and evaporated to dryness.

reactant | 7-hydroxyisoflavone | 7 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | pivaloyl chloride | 4.2 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
product | 7-pivaloyloxyisoflavone | C(C(C)(C)C)(=O)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C20H18O4
